US05026856
7-(4-amino-2-isoindolinyl)-1-(4-fluorophenyl)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
170 mg of 1-(4-fluorophenyl)-6,7,8-trifluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid, 81 mg of 4-amino isoindoline, 137 mg of DBU, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 20 to produce 98 mg of the target compound.

reactant | 1-(4-fluorophenyl)-6,7,8-trifluoro-1,4- dihydro-4-oxoquinoline-3-carboxylic acid | 170 mg | FC1=CC=C(C=C1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C16H7F4NO3
reactant | 4-amino isoindoline | 81 mg | NC1=C2CNCC2=CC=C1 | C8H10N2
reactant | DBU | 137 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(4-amino-2-isoindolinyl)-1-(4-fluorophenyl)-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 98 mg | NC1=C2CN(CC2=CC=C1)C1=C(C=C2C(C(=CN(C2=C1F)C1=CC=C(C=C1)F)C(=O)O)=O)F | C24H16F3N3O3
